* Kessetsu Generated SPICE Netlist
R_R1 N_R1_p1 0 1000
V_V1 N_R1_p1 0 5

.control
set wr_singlescale
set wr_vecnames
set numdgt=17
op
wrdata kessetsu-analysis-000-op.data all
print all
quit
.endc
