* Kessetsu structured AC fixture
V_INPUT in 0 DC 0 AC 1
R_FILTER in out 1k
C_FILTER out 0 1u

.control
set wr_singlescale
set wr_vecnames
ac dec 10 10 100k
wrdata kessetsu-analysis-000-ac.data all
quit
.endc
.end
