* Kessetsu structured transient fixture
V_INPUT in 0 PULSE(0 5 0 1u 1u 2m 4m)
R_FILTER in out 1k
C_FILTER out 0 1u

.control
set wr_singlescale
set wr_vecnames
tran 10u 5m
wrdata kessetsu-analysis-000-tran.data all
quit
.endc
.end
