.subckt KESSETSU_OPAMP_V1 in_p in_n vcc vee out
EGAIN n_int 0 in_p in_n 200000
RPOLE n_int out 1
CPOLE out 0 0.03183098861837907
RLOAD out 0 1e9
.ends KESSETSU_OPAMP_V1
.model KESSETSU_POWER_NPN_V1 NPN (Is=1e-12 Bf=80 Vaf=60 Cje=300p Cjc=150p Tf=1u Tr=5u)
.model KESSETSU_POWER_PNP_V1 PNP (Is=1e-12 Bf=80 Vaf=60 Cje=300p Cjc=150p Tf=1u Tr=5u)
